US05814651
(a) Preparation of 4-(4-fluorophenoxy)-1-butene
A solution of 4-bromo-1-butene (4.0 g), 4-fluorophenol (3.0 g), potassium carbonate (3.8 g) and acetone (75 ml) was heated at reflux over 16 hours. The mixture was then concentrated in vacuo, dluted with ether, washed with water followed by 1N sodium hydroxide, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatography on a silica gel column eluting with 25% ethyl acetate-hexane afforded 1.6 g of a colorless oil.

reactant | 4-bromo-1-butene | 4.0 g | BrCCC=C | C4H7Br
reactant | 4-fluorophenol | 3.0 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 4-(4-fluorophenoxy)-1-butene | 1.6 g | FC1=CC=C(OCCC=C)C=C1 | C10H11FO
